US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-naphthalen-1-ylmethylene-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 6, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.475 g, 1.85 mmol) was reacted with 1-naphthaldehyde (0.448 g, 2.87 mmol) in 3.0 mL of 4% KOH in EtOH for 6 hours at room temperature to afford 0.639 g (88%) of the title compound as a bright yellow solid, mp 147-148° C.: CL-MS m/e 494 (M+), 495 (M+ +1);

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 1.85 mmol, 0.475 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 1-naphthaldehyde | 2.87 mmol, 0.448 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | KOH | 3.0 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-naphthalen-1-ylmethylene-3,4-dihydro-2H-naphthalen-1-one | 0.639 g, 88% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=CC2=CC=CC=C12 | C26H22N2O2
